US06303593B1
1-(1-(2-Hydroxyethyl)-7-indolecarbonyl)-3-(R)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(R)-(3-thienyl)pyrrolidine
A solution of 0.07 g (0.115 mmol) of 1-(1-t-butoxycarbonyl methyl-7-indolecarbonyl)-3-(R)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(R)-(3-thienyl)pyrrolidine and 0.23 mL (0.46 mmol) of LiBH4 (2M in THF) in 4 mL of THF was stirred at rt for 12 h. To the reaction mixture was slowly added 2 mL of sat. NaHCO3 solution and the mixture was stirred st rt for 3 h. To this mixture was then added 30 mL of ether and the pH was adjusted to pH=10-11 with 5N NaOH solution. The reaction mixture was extracted with CH2Cl2. The organic fraction was dried over Na2CO3, filtered and the filtrate was concentrated. The residue was purified by chromatography (silica, CH2Cl2: ethyl acetate: NH3 (2M in MeOH), 10:10:2) to give the title compound.

reactant | 1-(1-t-butoxycarbonyl methyl-7-indolecarbonyl)-3-(R)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(R)-(3-thienyl)pyrrolidine | 0.115 mmol, 0.07 g | C(C)(C)(C)OC(=O)N1C(=CC2=CC=CC(=C12)C(=O)N1C[C@H]([C@@H](C1)C1=CSC=C1)CN1CCC(CC1)C1=CC=C(C=C1)F)C | C35H40FN3O3S
reactant | LiBH4 | 0.46 mmol, 2M, 0.23 mL | [Li+].[BH4-]
reactant | NaHCO3 | 2 mL | C(=O)(O)[O-].[Na+]
reactant | NaOH | 5N | [OH-].[Na+]
reactant | THF | 4 mL | C1CCOC1 | C4H8O
solvent | ether | 30 mL | CCOCC | C4H10O
product | 1-(1-(2-Hydroxyethyl)-7-indolecarbonyl)-3-(R)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(R)-(3-thienyl)pyrrolidine | OCCN1C=CC2=CC=CC(=C12)C(=O)N1C[C@H]([C@@H](C1)C1=CSC=C1)CN1CCC(CC1)C1=CC=C(C=C1)F | C31H34FN3O2S
